US05952511
(RS)-1-(2,2-Diethoxyethyl)-3-((4-methoxyphenyl)aminocarbonylmethyl)-3-(N'-(3-methoxyphenyl)ureido)indolin-2-one
To a solution of 0.50 g of (RS)-1-(2,2-diethoxyethyl)-3-(hydroxycarbonylmethyl)-3-(N'-(3-methoxyphenyl)ureido)indolin-2-one in 50 ml of dichloromethane were added successively 0.140 g of 4-dimethylaminopyridine and 0.090 ml of thionyl chloride at 0° C., followed by stirring at 0° C. for 30 minutes. To the mixture were further added 0.140 g of 4-dimethylaminopyridine and 0.190 g of 4-methoxyaniline at 0° C. The resulting mixture was stirred at room temperature for 1 hour, and then washed with an aqueous solution of sodium chloride. The organic layer was dried over anhydrous sodium sulfate and concentrated. The crude product was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to give 0.54 g (88%) of the title compound.

reactant | (RS)-1-(2,2-diethoxyethyl)-3-(hydroxycarbonylmethyl)-3-(N'-(3-methoxyphenyl)ureido)indolin-2-one | 0.50 g | C(C)OC(CN1C(C(C2=CC=CC=C12)(NC(=O)NC1=CC(=CC=C1)OC)CC(=O)O)=O)OCC | C24H29N3O7
reactant | thionyl chloride | 0.090 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-methoxyaniline | 0.190 g | COC1=CC=C(N)C=C1 | C7H9NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.140 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | 4-dimethylaminopyridine | 0.140 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (RS)-1-(2,2-Diethoxyethyl)-3-((4-methoxyphenyl)aminocarbonylmethyl)-3-(N'-(3-methoxyphenyl)ureido)indolin-2-one | 0.54 g, 88% | C(C)OC(CN1C(C(C2=CC=CC=C12)(NC(=O)NC1=CC(=CC=C1)OC)CC(=O)NC1=CC=C(C=C1)OC)=O)OCC | C31H36N4O7
